US06127386
17a. 5-(5-Phenyl-1-pentynyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine
To a solution of 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-pyridine (408 mg, 1.50 mmol), bis(triphenylphosphine)palladium(II) chloride (21 mg, 0.029 mmol) and copper (I) iodide (5 mg, 0.029 mmol) in CH2Cl2 (3.0 mL) and NEt3 (1.0 mL) was added 5-phenyl-1-pentyne (324 mg, 2.25 mmol). The mixture was refluxed overnight then cooled to room temperature. Water (2 mL) was added, and solid sodium bicarbonate was added until the aqueous layer was saturated. The mixture was extracted with EtOAc, which was dried over MgSO4, filtered and concentrated. The residue was chromatographed on a silica gel column, eluting with NH4OH/MeOH/EtOAc 0:1:9 and 1:10:90 to afford an oil (411 mg, 80%). MS (CI/NH3) m/z 335 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ 1.65-2.10 (m, 6H), 2.26-2.37 (m, 1H), 2.41-2.47 (m, 2H), 2.48 (s, 3H), 2.61-2.73 (m, 1H), 2.76-2.83 (m, 2H), 3.07-3.16 (m, 1H), 3.89-4.03 (m, 2H), 7.17-7.36 (m, 6H), 8.21-8.26 (m, 2H).

reactant | 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-pyridine | 1.50 mmol, 408 mg | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C11H15BrN2O
reactant | 5-phenyl-1-pentyne | 2.25 mmol, 324 mg | C1(=CC=CC=C1)CCCC#C | C11H12
reactant | Water | 2 mL | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | NEt3 | 1.0 mL | CCN(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.029 mmol, 21 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.029 mmol, 5 mg | [Cu]I
product | 5-(5-Phenyl-1-pentynyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 411 mg, 80% | C1(=CC=CC=C1)CCCC#CC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C22H26N2O
